US04000296
To a solution of ethanesulphonamide (12.0 g.) in dimethylformamide (75 ml.) at 4°, was added a solution of sodium hydroxide (4.45 g.) in water (6 ml.) and carbon disulphide (3.6 ml.) After stirring for 10 minutes at 5° sodium hydroxide (2.2 g.) in water (3 ml.) and carbon disulphate (1.5 ml) was added and after a further 10 minutes similar quantities of sodium hydroxide and carbon disulphide were again added. After stirring for 10 minutes at 5°, methyl iodide (42.6 g.) was added without external cooling and stirring was continued for 2 hours and the reaction mixture added to water (750 ml.) Extraction with ether and concentration yielded crude N-ethanesulphonyliminodithiocarbonic acid dimethyl ester (6.4 g.) This was reacted directly with 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (5.0 g.) and methylamine in ethanol by the method described in Example 7. The product was chromatographed on a column of silica gel with ethyl acetate-ethanol (2:1) as eluant to yield N-ethanesulphonyl-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine as a glass (4.0 g.)

reactant | ethanesulphonamide | 12.0 g | C(C)S(=O)(=O)N | C2H7NO2S
reactant | sodium hydroxide | 4.45 g | [OH-].[Na+]
reactant | sodium hydroxide | 2.2 g | [OH-].[Na+]
reactant | methyl iodide | 42.6 g | CI | CH3I
reactant | ether | CCOCC | C4H10O
reactant | carbon disulphide | 3.6 ml | C(=S)=S | CS2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | 6 ml | O | H2O
solvent | water | 3 ml | O | H2O
solvent | carbon disulphate | 1.5 ml | S(=O)(=O)([O-])OS(=O)(=O)[O-].[C+4].S(=O)(=O)([O-])OS(=O)(=O)[O-]
solvent | water | 750 ml | O | H2O
product | N-ethanesulphonyliminodithiocarbonic acid dimethyl ester | 6.4 g | CS(C(OC)=S)=NS(=O)(=O)CC | C5H11NO3S3
